US09289419B2
Synthesis of 3,8-diazabicyclo[3.2.1]octan-8-yl(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridin-3-yl)methanone
TFA (1.2 mL) was added to a solution of tert-butyl 8-(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)-3,8-diazabicyclo[3.2.1]octane-3-carboxylate (200 mg, 0.37 mmol) in DCM (2 mL) at 0° C. and stirring was continued at 20-35° C. for 15 h. The reaction mixture was concentrated under reduced pressure to afford the crude, which was diluted with EtOAc, washed with saturated NaHCO3 solution, dried over anhydrous sodium sulphate to afford the crude. The crude compound was purified by recrystallisation from mixture of DCM and n-Hexane to afford 25 mg of the title compound.

reactant | TFA | 1.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 8-(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)-3,8-diazabicyclo[3.2.1]octane-3-carboxylate | 0.37 mmol, 200 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)N2C1CN(CC2CC1)C(=O)OC(C)(C)C | C29H33F2N5O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,8-diazabicyclo[3.2.1]octan-8-yl(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridin-3-yl)methanone | 25 mg | C12CNCC(CC1)N2C(=O)C=2C=NN1C2C=C(C=C1)N1[C@H](CCC1)C1=C(C=CC(=C1)F)F | C24H25F2N5O
